US06482859B1
1.5 g of (S)-2-amino-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide and 0.5 ml of triethylamine are dissolved in 50 ml of dioxane. 0.4 ml of 1-propanesulfonyl chloride is added, and the reaction mixture is stirred overnight at room temperature. It is introduced into 200 ml of saturated sodium chloride solution. Extraction is carried out twice using 150 ml of ethyl acetate each time. The organic phases are washed once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated, yielding (S)-2-(propylsulfonyl-amino)-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide, which is chromatographed on silica gel with ethyl acetate/n-hexane (1:1) and recrystallised from ethyl acetate/n-hexane, m.p. 131-133° C.

reactant | (S)-2-amino-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide | 1.5 g | COC=1C=C(C=CC1OCC#CC1=CC=C(C=C1)Cl)CCNC([C@H](C(C)C)N)=O | C23H27ClN2O3
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-propanesulfonyl chloride | 0.4 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(propylsulfonyl-amino)-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide | COC=1C=C(C=CC1OCC#CC1=CC=C(C=C1)Cl)CCNC([C@H](C(C)C)NS(=O)(=O)CCC)=O | C26H33ClN2O5S
